US07683185B2
6-(4-Dimethylamino-phenylsulfanyl)-hexanoic acid methyl ester (28e).
To a solution of 6-(4-amino-phenylsulfanyl)-hexanoic acid methyl ester (2.5 g, 10 mmol) in methanol (20 mL) was added at 0° C. a 37% aqueous solution of formaldehyde (2.4 mL, 30 mmol) and a solution of sodium cyanoborohydride (2.5 g, 40 mmol) and zinc chloride (2.7 g, 20 mmol) in methanol (150 mL). The mixture was stirred at room temperature for 2 hours and concentrated under reduced pressure. The residue was taken up in ethyl acetate (250 mL) and aqueous sodium hydroxide (100 mL, 2M). The organic layer was washed consecutively with aqueous sodium hydroxide (100 mL, 2M), distilled water (2×100 mL) and brine (2×100 mL), dried over anhydrous MgSO4, filtered and concentrated under reduced pressure to give a yellow oil that was purified by flash chromatography (10:90:1 to 20:80:1 ethyl acetate:40-60° C. petroleum ether:triethylamine) to give the title compound (2.2 g, 79%) as a colourless oil.

reactant | 6-(4-amino-phenylsulfanyl)-hexanoic acid methyl ester | 10 mmol, 2.5 g | COC(CCCCCSC1=CC=C(C=C1)N)=O | C13H19NO2S
reactant | formaldehyde | 30 mmol, 2.4 mL | C=O | CH2O
reactant | sodium cyanoborohydride | 40 mmol, 2.5 g | C(#N)[BH3-].[Na+]
solvent | methanol | 20 mL | CO | CH4O
solvent | methanol | 150 mL | CO | CH4O
catalyst | zinc chloride | 20 mmol, 2.7 g | [Cl-].[Zn+2].[Cl-]
product | 6-(4-Dimethylamino-phenylsulfanyl)-hexanoic acid methyl ester | 2.2 g, 79% | COC(CCCCCSC1=CC=C(C=C1)N(C)C)=O | C15H23NO2S
